US08071807B2
Step 7: {3-[4-(4-Chloro-benzoylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid
To {3-[4-(4-chloro-benzoylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester (0.47 mmol) in MeOH and H2O was added 1N aqueous lithium hydroxide. The reaction was stirred overnight at 65° C., and then acidified and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by preparative HPLC to give the title compound.

reactant | {3-[4-(4-chloro-benzoylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | 0.47 mmol | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)Cl)=O)CSCC(F)(F)F)=O | C27H25ClF3NO5S
reactant | lithium hydroxide | 1N | [OH-].[Li+]
solvent | MeOH | CO | CH4O
solvent | H2O | O | H2O
product | {3-[4-(4-Chloro-benzoylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid | ClC1=CC=C(C(=O)NC2=CC(=C(OC=3C=C(C=CC3OC)CC(=O)O)C=C2)CSCC(F)(F)F)C=C1 | C25H21ClF3NO5S
